US06458845B1
5-Bromo-N-(4-Bromophenyl)-2-(4-chlorophenylsulfonylamino)benzamide
A solution of N-(4-Bromophenyl)-2-amino-5-bromobenzamide (8.64 g, 23.3 mmol), 4-chlorobenzenesulfonyl chloride (4.98 g, 23.6 mmol), and 7.37 g (93.2 mmol) in 300 ml of CH2Cl2 was allowed to stand at room temperature for 2 days. The reaction mixture was concentrated under vacuum and the residue dissolved in EtOAc. The solution was washed twice with 10% HCl, water, 5% NaHCO3, water, and dried over MgSO4. Concentration and recrystallization from 10% EtOAc in hexane gave product which had satisfactory NMR, MS, and elemental analysis.

reactant | N-(4-Bromophenyl)-2-amino-5-bromobenzamide | 23.3 mmol, 8.64 g | BrC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Br)N)=O | C13H10Br2N2O
reactant | 4-chlorobenzenesulfonyl chloride | 23.6 mmol, 4.98 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-N-(4-Bromophenyl)-2-(4-chlorophenylsulfonylamino)benzamide | BrC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)Br)C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C19H13Br2ClN2O3S
